US08431575B2
To a stirred solution of (±)-cis-(4-azidomethyl-3-methoxy-piperidin-1-yl)-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yl]-methanone (0.23 mmol, 120 mg) in methanol (1 mL) was added Pd—C (20% by wt., 25 mg). The reaction was hydrogenated at room temperature under balloon pressure for 2.5 h. The reaction was filtered through celite, and the solvent removed under reduced pressure to provide (±)-cis-(4-aminomethyl-3-methoxy-piperidin-1-yl)-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yl]-methanone.

reactant | (±)-cis-(4-azidomethyl-3-methoxy-piperidin-1-yl)-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yl]-methanone | 0.23 mmol, 120 mg | N(=[N+]=[N-])C[C@@H]1[C@@H](CN(CC1)C(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)OC | C28H38N6O3
solvent | methanol | 1 mL | CO | CH4O
catalyst | Pd—C | 25 mg | [Pd] | Pd
product | (±)-cis-(4-aminomethyl-3-methoxy-piperidin-1-yl)-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yl]-methanone | NC[C@@H]1[C@@H](CN(CC1)C(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)OC | C28H40N4O3
